US06576752B1
To 5-Hexyn-1-ol is added N-hydroxyphthalimide (1.1 equivalent) in dry THF. To this mixture is added diethylazo-dicarboxylate (DEAD) dropwise with stirring at ambient temperature for 18 hours. Evaporation of the reaction mixture followed by silica column purification yielded the 1-phthalimidooxy-hex-5-yne.

reactant | 5-Hexyn-1-ol | C(CCCC#C)O | C6H10O
reactant | N-hydroxyphthalimide | 1.1 equivalent | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | THF | C1CCOC1 | C4H8O
product | 1-phthalimidooxy-hex-5-yne | C1(C=2C(C(N1OCCCCC#C)=O)=CC=CC2)=O | C14H13NO3
